US04105646
To a solution of 198.2 g (1 mole) of 4,4'-methylene dianiline in 2000 ml of ethanol was added a solution of 277.6 g (2.1 moles) of trans-cinnamaldehyde in 500 ml of ethanol over a 2 minute period. Immediately an exothermic reaction ensued and within 2 minutes the reaction mixture set up to a yellow solid. An additional 1000 ml of ethanol was added, the reaction mixture was heated at reflux for 1 hour with stirring, and then cooled to room temperature. The product was filtered and dried in vacuum at room temperature, yielding 402.5 l g (94% of theory) of N,N'-biscinnamal-4,4'-methylene dianiline, m.p. 162.5°-163.5° C.

reactant | 4,4'-methylene dianiline | 1 mole, 198.2 g | C(C1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C13H14N2
reactant | trans-cinnamaldehyde | 2.1 moles, 277.6 g | C(\C=C\C1=CC=CC=C1)=O | C9H8O
solvent | ethanol | 2000 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | N,N'-biscinnamal-4,4'-methylene dianiline | 94% | C(C=CC1=CC=CC=C1)=NC1=CC=C(C=C1)CC1=CC=C(N=CC=CC2=CC=CC=C2)C=C1 | C31H26N2
